datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([O:3][O:4][H:14])([H:12])[H:13])[C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([H:12])[H:13])[C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])([H:9])([H:10])[H:11].[O:3][O:4][H:14],60.668
[C:0]([C:1]([O:2][O:3][H:12])([C:4]([O:5][H:14])([O:6][O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]([O:2][O:3])([C:4]([O:5][H:14])([O:6][O:7][H:12])[H:13])[H:11])([H:8])([H:9])[H:10],68.4084
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[S:12][H:19])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[S:12][H:19],117.236
[C:0]([C:1](=[O:2])[O:3][O:4][H:8])([H:5])([H:6])[H:7].[O:9]>>[C:0]([C:1](=[O:2])[O:3][O:4])([H:5])([H:6])[H:7].[H:8][O:9],19.874
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4])[H:8])([H:5])([H:6])[H:7].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([O:3][O:4][H:18])[H:8])([H:5])([H:6])[H:7].[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[H:19])([H:15])([H:16])[H:17],71.128
[S:0][C:1]([S:2][H:5])([H:3])[H:4]>>[H:5].[S:0]1[C:1]([H:3])([H:4])[S:2]1,179.494
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[H:20]>>[C:0]([C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])([H:11])[H:20],6.6944
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[O:18][O:19]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][O:18][O:19],166.147
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](=[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])[C:16]([C:15](=[C:14]([H:18])[H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21])[H:6],49.5804
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([C:12](=[C:13]([H:27])[H:28])[H:26])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15]>>[C:0]([C:1]([H:4])[H:5])([H:2])([H:3])[C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([C:12](=[C:13]([H:27])[H:28])[H:26])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15],30.5432
[O:0].[c:1]1([H:11])[c:2]([H:12])[c:3]([H:13])[c:4]2[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]2[c:10]1[H:18]>>[O:0][H:11].[c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]2[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]2[c:10]1[H:18],61.5271
[C:0]([C:1]([C:2](=[S:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10](=[S:11])[H:12]>>[C:0]([C:1]([C:2](=[S:3])[H:9])[H:8])([H:4])([H:5])[H:6].[H:7][C:10](=[S:11])[H:12],36.4008
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4](=[C:5]([H:13])[H:14])[H:12])[H:8])([H:6])[H:7].[C:15]([C:16](=[C:17]([c:18]1[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]([H:32])[c:23]1[H:33])[H:28])[H:27])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[C:17]([C:16]([C:15]([H:24])([H:25])[H:26])[H:27])([c:18]1[c:19]([H:29])[c:20]([H:30])[c:21]([H:31])[c:22]([H:32])[c:23]1[H:33])[H:28])[H:8])([H:6])[H:7],78.9939
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([C:6]([H:16])([H:17])[H:18])=[C:7]([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([C:6]([H:16])([H:17])[H:18])[C:7]1([C:8](=[C:9]([H:21])[H:22])[H:20])[H:19])[H:10],157.235
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([H:12])[H:13])[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[C:10]([C:9]#[C:8][H:11])([H:12])[H:13])[H:4],42.7186
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[C:10]([O:11])([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[O:11][C:10]([H:12])([H:13])[H:14])([H:3])([H:4])[H:5],0.0
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24]([H:25])([H:26])[H:27]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:24]([H:25])([H:26])[H:27])[H:12],26.7776
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](=[C:12][C:13]([H:16])([H:17])[H:18])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([H:7])[C:12](=[C:11]([H:14])[H:15])[C:13]([H:16])([H:17])[H:18])[H:6])[H:5],-0.79496
